US09302989B2
N-(4-nitrophenyl)isoindoline-2-carboxamide
A solution of N-(4-aminophenyl)isoindoline-2-carboxamide (100 mg, 0.395 mmol), 4-phenylbutanoic acid (78 mg, 0.474 mmol), 1-hydroxybenzotriazole hydrate (66.5 mg, 0.434 mmol) and N-methylmorpholine (0.109 ml, 0.987 mmol) in N,N-dimethylformamide (1.771 ml) at room temperature was treated with N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (136 mg, 0.711 mmol). The mixture was stirred overnight and diluted with water (10 ml); the resulting suspension was filtered with water washes to give after drying product with an impurity. This solid was suspended in 2% methanol/dichloromethane and filtered to provide the title compound.

reactant | N-(4-aminophenyl)isoindoline-2-carboxamide | 0.395 mmol, 100 mg | NC1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C15H15N3O
reactant | 4-phenylbutanoic acid | 0.474 mmol, 78 mg | C1(=CC=CC=C1)CCCC(=O)O | C10H12O2
reactant | 1-hydroxybenzotriazole hydrate | 0.434 mmol, 66.5 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-methylmorpholine | 0.987 mmol, 0.109 ml | CN1CCOCC1 | C5H11NO
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.711 mmol, 136 mg | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | 1.771 ml | CN(C=O)C | C3H7NO
solvent | water | 10 ml | O | H2O
product | N-(4-nitrophenyl)isoindoline-2-carboxamide | [N+](=O)([O-])C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C15H13N3O3
